US04804668
m-Chloroperbenzoic acid (25.6 g) was added dropwise to a stirred solution of 2-methoxy-5-methyl-2H-1,4-thiazin-3(4H)-one (16 g) in methanol (500 ml) under ice-cooling and the mixture was stirred at room temperature for 4 hours. Then, the reaction mixture was made alkaline by addition of anhydrous potassium carbonate and evaporated to dryness. The residue was extracted twice with chloroform and the combined extracts were washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was triturated with ethyl ether to give 2,2-dimethoxy-5-methyl-2H-1,4-thiazin-3(4H)-one (10 g, yield 53%) as pale yellow plates.

reactant | m-Chloroperbenzoic acid | 25.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methoxy-5-methyl-2H-1,4-thiazin-3(4H)-one | 16 g | COC1SC=C(NC1=O)C | C6H9NO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | 2,2-dimethoxy-5-methyl-2H-1,4-thiazin-3(4H)-one | 10 g, yield 53% | COC1(SC=C(NC1=O)C)OC | C7H11NO3S
